US05637593
A mixture of 5-fluoro-2-nitrotoluene (9.8 g), phenol (11.89 g), potassium carbonate (12.22 g) and copper bronze (1.0 g) was boiled for 16 hours. After cooling to room temperature the mixture was extracted with boiling diethyl ether (2×500 ml) and the combined organic phases washed with aqueous 1N sodium hydroxide (6×100 ml) and water (3×100 ml). After drying (MgSO4), solvent was removed at reduced pressure and the residue column chromatographed (silica gel, hexane→5% diethyl ether/hexane eluant) to give 2-nitro-5-phenoxytoluene (2.06 g) as an oil.

reactant | 5-fluoro-2-nitrotoluene | 9.8 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | phenol | 11.89 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 12.22 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper bronze | 1.0 g | [Cu] | Cu
product | 2-nitro-5-phenoxytoluene | 2.06 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=CC=C1)C | C13H11NO3
